US07544835B2
Ethyl 3-[3-(3-hydroxy-1-propynyl)phenyl]-2-isopropoxypropanoate
550 mg of Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)propanoate was dissolved in 5 ml of N,N-dimethylformamide, and 160 mg of propargyl alcohol, 13 mg of copper iodide, 83 mg of tetrakis(triphenylphosphine)palladium and 1 ml of triethylamine were added. After stirring was continued at 50° C. for 4 hours under nitrogen atmosphere, the reaction mixture was diluted with ethyl acetate and washed with water and 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was distilled off. Then, the residue was purified by silica gel column chromatography, to give 184 mg of the title compound in the 4:1→2:1 hexane-ethyl acetate fraction.

reactant | Ethyl 2-isopropoxy-3-(3-[(trifluoromethyl)sulfonyl]oxyphenyl)propanoate | 550 mg | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F | C15H19F3O6S
reactant | propargyl alcohol | 160 mg | C(C#C)O | C3H4O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 13 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 83 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-[3-(3-hydroxy-1-propynyl)phenyl]-2-isopropoxypropanoate | 184 mg | OCC#CC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C17H22O4
